US06455587B1
Preparation of Nα-(9-Fluorenylmethoxycarbonyl)-L-lysine (Compound No. 145)
Nα-(9-fluorenylmethoxycarbonyl)-Nε-benzyloxycarbonyl-L-lysine (502 mg, 1.00 mmol) was dissolved in TFA/CH2Cl2 (3 mL/3 mL) and stirred at room temperature for 1 h. The volatiles were removed in vacuo to afford the title compound quantitatively as a white solid.

reactant | Nα-(9-fluorenylmethoxycarbonyl)-Nε-benzyloxycarbonyl-L-lysine | 1.00 mmol, 502 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C29H30N2O6
solvent | TFA CH2Cl2 | 3 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | Nα-(9-Fluorenylmethoxycarbonyl)-L-lysine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCCCN)C(=O)O | C21H24N2O4
